US06310079B1
(E)-5-Formylamino-1-(2-pyridyl)-2-styryl-1H-benzimidazole
To a solution of (E)-5-amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole (300 mg, 0.96 mmol) in formic acid (5 ml) was added acetic anhydride (1 ml) via syringe and the reaction mixture was warmed to 50° C. for 1 h. Volatiles were removed under reduced pressure and the residual viscous oil was poured into saturated aqueous sodium bicarbonate solution (50 ml) and the aqueous mixture was extracted with ethyl acetate (100 ml). The organic extract was washed consecutively with water (50 ml) and brine (50 ml), dried (sodium sulfate) and concentrated in vacuo. Recrystallization of the residue from ethyl acetate afforded 50 mg (15%) of the titled compound as light brown solids.

reactant | (E)-5-amino-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 0.96 mmol, 300 mg | NC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C20H16N4
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 5 ml | C(=O)O | CH2O2
product | (E)-5-Formylamino-1-(2-pyridyl)-2-styryl-1H-benzimidazole | 50 mg, 15% | C(=O)NC1=CC2=C(N(C(=N2)\C=C\C2=CC=CC=C2)C2=NC=CC=C2)C=C1 | C21H16N4O
